US07135475B2
A solution of 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester (104 mg, 0.22 mmol) in acetonitrile (2.0 mL) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (0.03 mL, 0.24 mmol) and 2-bromomethyl-1-fluoro-4-nitro-benzene (56.6 mg, 0.24 mmol). The resulting solution was heated to 50° C. for 6 h. At this time, another portion of 1,8-diazabicyclo[5.4.0]undec-7-ene (0.03 mL, 0.24 mmol) was added. The reaction was stirred at 25° C. for 18 h. At this time, the reaction was poured into ethyl acetate (200 mL) and was washed with a 1N aqueous hydrochloric acid solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1:1 ethyl acetate/petroleum ether) afforded 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-1-(2-fluoro-5-nitro-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester (45.3 mg, 33%) as a tan solid: FAB-HRMS m/e calcd for C31H35N6O7F (M+H)+ 623.2630, found 623.2631.

reactant | 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester | 0.22 mmol, 104 mg | C(C)(=O)NC1=CC=C(CC2=NC=3N(C(NC(C3N2COC(C(C)(C)C)=O)=O)=O)CCCC)C=C1 | C24H31N5O5
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.24 mmol, 0.03 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-bromomethyl-1-fluoro-4-nitro-benzene | 0.24 mmol, 56.6 mg | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.24 mmol, 0.03 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-1-(2-fluoro-5-nitro-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester | 45.3 mg, 33% | C(C)(=O)NC1=CC=C(CC2=NC=3N(C(N(C(C3N2COC(C(C)(C)C)=O)=O)CC2=C(C=CC(=C2)[N+](=O)[O-])F)=O)CCCC)C=C1 | C31H35FN6O7
